US07649197B2
3.7 g (9.2 mmol) of 3-bromo-9-(4-biphenylyl)carbazole, 63 mg (0.3 mmol) of palladium acetate, 330 mg (0.6 mmol) of 1,1-bis(diphenylphosphino)ferrocene, and 1.5 g (15 mmol) of sodium-tert-butoxide were put in a three-neck flask and the atmosphere of the flask was substituted by nitrogen, and then, 20 mL of dehydrated xylene was added, and deaeration was performed. Then, 9.3 g (10 mmol) of aniline was added thereto. Under a nitrogen atmosphere, it was heated and stirred at 130° C. for 4 hours. After the termination of the reaction, about 300 mL of hot toluene was added to this suspension, and the mixture was filtered through florisil, alumina, and Celite®. The obtained filtrate was concentrated and hexane was added thereto. Then, it was precipitated by ultrasonic wave. This was filtered, and the residue was dried to obtain 3.5 g (yield: 93%) of N-[(4-biphenylyl)carbazol-3-yl]-N-phenylamine (BCA) which was cream-colored powder.

reactant | 3-bromo-9-(4-biphenylyl)carbazole | 9.2 mmol, 3.7 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H16BrN
reactant | sodium-tert-butoxide | 15 mmol, 1.5 g | CC(C)([O-])C.[Na+]
reactant | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | aniline | 10 mmol, 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | toluene | about 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.3 mmol, 63 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.6 mmol, 330 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | N-[(4-biphenylyl)carbazol-3-yl]-N-phenylamine | 3.5 g, yield: 93% | C1(=CC=C(C=C1)C1=CC(=CC=2C3=CC=CC=C3NC12)NC1=CC=CC=C1)C1=CC=CC=C1 | C30H22N2
